US06414011B1
2-[4-(4-Fluorophenoxy)phenyl]oxazole-4-carboxamide
Methyl 4,5-dihydro-2-[4-(4-fluorophenoxy)phenyl]oxazole-4-carboxylate. To a solution of N-[4-(4-fluorophenoxy)benzoyl]-L-serine methyl ester (assumed to be 37 mmol from the previous reaction) and triphenylphosphine (0.38 g, 6.8 mmol) in acetonitrile (40 mL) was added diisopropylethyl amine (1.2 ml, 6.8 mmol) and carbon tetrachloride (0.66 mL, 6.8 mmol). The resulting solution was stirred at room temperature for 48 hours when TLC analysis indicated incomplete reaction. Triphenylphosphine (1.9 g, 7.2 mmol), diisopropylethyl amine (1.2 mL, 6.8 mmol) and carbon tetrachloride (0.66 mL, 6.8 mmol) was added to the reaction. The solution was stirred at room temperature for 16 hours and concentrated to dryness. The resulting solid was purified by column chromatography affording 910 mg (89%) of the desired product. 1H NMR (DMSO-d6): 7.88 (d, J=8.7 Hz, 2H), 7.29 (t, J=9.3 Hz, 2H), 7.20-7.17 (m, 2H), 7.03 (d, J=8.7 Hz, 2H), 4.95 (dd, J=8.1 Hz, 1H), 4.64-4.25 (m, 2H), 3.71 (s, 3H).

reactant | Methyl 4,5-dihydro-2-[4-(4-fluorophenoxy)phenyl]oxazole-4-carboxylate | FC1=CC=C(OC2=CC=C(C=C2)C=2OCC(N2)C(=O)OC)C=C1 | C17H14FNO4
reactant | N-[4-(4-fluorophenoxy)benzoyl]-L-serine methyl ester | COC([C@@H](NC(C1=CC=C(C=C1)OC1=CC=C(C=C1)F)=O)CO)=O | C17H16FNO5
reactant | triphenylphosphine | 6.8 mmol, 0.38 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylethyl amine | 6.8 mmol, 1.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | carbon tetrachloride | 6.8 mmol, 0.66 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | Triphenylphosphine | 7.2 mmol, 1.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylethyl amine | 6.8 mmol, 1.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | carbon tetrachloride | 6.8 mmol, 0.66 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 2-[4-(4-Fluorophenoxy)phenyl]oxazole-4-carboxamide | 910 mg, 89% | FC1=CC=C(OC2=CC=C(C=C2)C=2OC=C(N2)C(=O)N)C=C1 | C16H11FN2O3
